US08119661B2
Step A: The preparation of tert-butyl 3-[4-[[(1S,2R)-2-(cyanomethyl)cyclohexyl]amino]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate (mixture of diastereomers)
Following the procedure used in step D of the example 14 and starting with 2-[(1R,2S)-2-aminocyclohexyl]acetonitrile (0.342 g, 2.47 mmol) and tert-butyl 3-methyl-3-(4-oxo-1-piperidyl)pyrrolidine-1-carboxylate (0.699 g, 2.47 mmol), the title compound (0.090 g, 8.99%) was obtained after purification by preparative LC/MS (High pH). MS (M+1): 405.23.

reactant | 2-[(1R,2S)-2-aminocyclohexyl]acetonitrile | 2.47 mmol, 0.342 g | N[C@@H]1[C@H](CCCC1)CC#N | C8H14N2
reactant | tert-butyl 3-methyl-3-(4-oxo-1-piperidyl)pyrrolidine-1-carboxylate | 2.47 mmol, 0.699 g | CC1(CN(CC1)C(=O)OC(C)(C)C)N1CCC(CC1)=O | C15H26N2O3
product | tert-butyl 3-[4-[[(1S,2R)-2-(cyanomethyl)cyclohexyl]amino]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate | 0.090 g, 8.99% | C(#N)C[C@@H]1[C@H](CCCC1)NC1CCN(CC1)C1(CN(CC1)C(=O)OC(C)(C)C)C | C23H40N4O2
